US08802688B2
Step 4. benzyl 6-bromo-2-tert-butyl-7-methoxy-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate
Benzyl 2-tert-butyl-2,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate (560 mg, 1.48 mmol) was dissolved in a 20% methanol/tetrahydrofuran mixture (25 mL). N-bromosuccinimide (315 mg, 1.77 mmol) was added and the mixture was stirred for 30 minutes. The mixture was concentrated under reduced pressure. The resultant oil was partitioned between ethyl acetate (50 mL) and water (50 mL). The organic phase was dried over sodium sulfate, filtered and concentrated. The resultant oil was purified by flash column chromatography (10-80% ethyl acetate/heptane) to yield 538 mg (73%) of the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3, δ): 7.27-7.43 (m, 6 H), 5.12 (s, 2 H), 4.74 (d, J=2.7 Hz, 1 H), 4.41 (d, J=2.5 Hz, 1 H), 3.60-3.84 (m, 2 H), 3.54-3.61 (m, 3 H), 3.14-3.39 (m, 2 H), 2.59 (s, 2 H), 1.86 (br. s., 1 H), 1.69 (br. s., 3 H), 1.51-1.60 (m, 9 H).

reactant | Benzyl 2-tert-butyl-2,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 1.48 mmol, 560 mg | C(C)(C)(C)N1N=C2C=CC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)CC2=C1 | C23H29N3O2
reactant | N-bromosuccinimide | 1.77 mmol, 315 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methanol tetrahydrofuran | 25 mL | CO.O1CCCC1
product | benzyl 6-bromo-2-tert-butyl-7-methoxy-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 538 mg, 73% | BrC1C(C2=NN(C=C2CC12CCN(CC2)C(=O)OCC2=CC=CC=C2)C(C)(C)C)OC | C24H32BrN3O3
